US08530504B2
2-Bromo-5-(isopropoxymethyl)-1,3-dimethoxybenzene
To an N,N-dimethylformamide (15 ml) solution of 2-propanol (7.81 ml, 102 mmol) was added sodium hydride (4.08 g, 102 mmol) at room temperature, and the mixture was stirred for 30 minutes. To the mixture was added an N,N-dimethylformamide (15 ml) solution of 2-bromo-5-(chloromethyl)-1,3-dimethoxybenzene (2.70 g, 10.2 mmol) and the mixture was stirred for one hour. After the reaction was completed, water was added to the reaction mixture while cooling on ice, which was extracted with ethyl acetate and dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-heptane/ethyl acetate: 3/1) to obtain the title compound (1.85 g, 6.40 mmol).

reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | 2-propanol | 102 mmol, 7.81 ml | CC(C)O | C3H8O
reactant | sodium hydride | 102 mmol, 4.08 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | 2-bromo-5-(chloromethyl)-1,3-dimethoxybenzene | 10.2 mmol, 2.70 g | BrC1=C(C=C(C=C1OC)CCl)OC | C9H10BrClO2
solvent | water | O | H2O
product | 2-Bromo-5-(isopropoxymethyl)-1,3-dimethoxybenzene | 6.40 mmol, 1.85 g | BrC1=C(C=C(C=C1OC)COC(C)C)OC | C12H17BrO3
